US05486512
To a solution of 2 g of 3-chloro-7,8,9,10-tetrahydroazepino[2,1-b]quinazolin-12(6H)-one, dissolved in 50 mL of glacial acetic acid was stirred 25 g of zinc dust with vigorous mechanical stirring. The mixture was heated to 55° C.-60° C. and concentrated hydrochloric acid was added dropwise (approximately 20 mL). The reaction was checked by TLC. Usually between 20 minutes to 5 hours were required for completion. The excess zinc was filtered off, the solution concentrated in vacuo, and basified with 20% sodium hydroxide solution. The product was extracted with tetrahydrofuran. Then the free base was chromatographed using 300:25:1 CHCl3 :MeOH:28% aqueous ammonia. The corresponding fractions were combined, concentrated in vacuo, and dried in high vacuum providing the 3-chloro-6,7,8,9,10,12-hexahydroazepino[2,1-b]quinazoline as a white crystalline solid; m.p. 102° C.-104° C. To convert to its hydrochloride salt, the base was treated with one equivalent of 4N HCl in 50 mL absolute ethanol. The solution was concentrated in vacuo, redissolved in absolute ethanol, and concentrated in vacuo. Then the hydrochloride was recrystallized from absolute ethyl alcohol with little ethyl acetate, giving white crystals, m.p. 270° C.-271° C. (dec.).

reactant | 3-chloro-7,8,9,10-tetrahydroazepino[2,1-b]quinazolin-12(6H)-one | 2 g | ClC1=CC=C2C(N3C(=NC2=C1)CCCCC3)=O | C13H13ClN2O
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 25 g | [Zn] | Zn
product | 3-chloro-6,7,8,9,10,12-hexahydroazepino[2,1-b]quinazoline | ClC1=CC=C2CN3C(=NC2=C1)CCCCC3 | C13H15ClN2
